US09238639B2
D) 4-(Dimethylcarbamoyl)-3-(2-methoxy-2-oxoethyl)-1-benzothiophen-6-yl pivalate
To a mixture of 6-((2,2-dimethylpropanoyl)oxy)-3-(2-methoxy-2-oxoethyl)-1-benzothiophene-4-carboxylic acid (145 mg) and DMF (dry) (5 mL) were added dimethylamine hydrochloride (50.6 mg), TEA (0.115 mL) and HATU (236 mg) at room temperature. The mixture was stirred at room temperature for 4 h. The mixture was poured into water at room temperature and extracted with EtOAc. The organic layer was separated, washed successively with water and brine, dried over MgSO4 and concentrated in vacuo. The residue was purified by silica gel column chromatography (EtOAc/hexane) to give the title compound (133 mg).

reactant | 6-((2,2-dimethylpropanoyl)oxy)-3-(2-methoxy-2-oxoethyl)-1-benzothiophene-4-carboxylic acid | 145 mg | CC(C(=O)OC=1C=C2C(C(=CS2)CC(=O)OC)=C(C1)C(=O)O)(C)C | C17H18O6S
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
reactant | dimethylamine hydrochloride | 50.6 mg | Cl.CNC
reactant | HATU | 236 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | water | O | H2O
product | 4-(Dimethylcarbamoyl)-3-(2-methoxy-2-oxoethyl)-1-benzothiophen-6-yl pivalate | 133 mg | C(C(C)(C)C)(=O)OC1=CC2=C(C(=CS2)CC(=O)OC)C(=C1)C(N(C)C)=O | C19H23NO5S
